*Buck Converter - Hysteresis Duty-Cycle Control (Closed Loop)
*50kHz PWM (100kHz long sims >14ms hang in batch mode), duty adjusted by hysteresis:
*  Vout < Vref-0.1 -> duty up ; Vout > Vref+0.1 -> duty down ; else hold
*Output regulated to Vref +/- 0.1V. Vref steps 6V->8V at 10ms.

Vin in 0 12

*=== Hysteresis Duty-Cycle Controller ===
*Carrier: sawtooth 0~12V, period 20us (50kHz), duty = V(dctrl)/12
*PULSE(V1 V2 Td Trise Tfall Ton Tperiod): 19.6u rise + 0.2u hold + 0.2u fall = 20u
Vtri tri 0 PULSE(0 12 0 19.6u 0.2u 0.2u 20u)
*Reference: 6V, ramps to 8V over 0.1ms starting at 10ms, then holds
Bref ref 0 V=6+2*limit((time-10m)/0.1m,0,1)
*Hysteresis integrator (smooth dead-band = hysteresis):
*  Vout < Vref-0.1  -> ~+1mA charges dctrl (duty up)
*  Vout > Vref+0.1  -> ~-1mA discharges dctrl (duty down)
*  within band       -> ~0, capacitor holds dctrl (memory)
*Smooth sigmoid transition avoids hard switching (convergence)
Gint 0 dctrl VALUE={0.2m*(1/(1+exp((V(out)-V(ref)+0.1)*20)) - 1/(1+exp((V(ref)+0.1-V(out))*20)))}
Cdctrl dctrl 0 1u ic=6
*Leak resistor: DC reference for dctrl
Rdc dctrl 0 100meg
*Clamp dctrl to 0~12V (prevent duty saturation runaway)
*Uses existing Vcc node (12V) from bootstrap supply
Dclamp1 0 dctrl DCLAMP
Dclamp2 dctrl vcc DCLAMP
*PWM compare: on when carrier < duty command
Bpwm pwm 0 V=if(V(tri)<V(dctrl), 12, 0)

*=== Bootstrap Circuit ===
*Vcc supplies bootstrap capacitor through diode Db
Vcc vcc 0 12
Db vcc boot D
*Bootstrap capacitor: bottom plate tied to sw node
Cb boot sw 100n
*DC path for boot node (avoid floating node in .op analysis)
Rboot boot 0 1meg

*=== Gate Driver (models bootstrap-driven driver chip) ===
*Bootstrap keeps Vgs constant: Vgs = Vboot-Vsw = ~11.5V when PWM high
*Driver output = V(sw) + Vgs_drive, independent of V(boot) to avoid feedback loop
B1 drv 0 V=V(sw)+if(V(pwm)>6, 11.5, 0)
*Driver output impedance (like a real driver chip)
Rg drv gate 10
*Gate capacitance (real MOSFET has Cgs)
Cg gate sw 1n
*Convergence aid: breaks algebraic loop sw->gate->sw (needed with L=100u)
Cgnd gate 0 1n

*=== Power Stage ===
*NMOS Switch - Drain to Vin, Source to sw node
M1 in gate sw 0 NMOS
*Freewheeling Diode - Cathode to sw, Anode to GND
D1 0 sw D
*DC path for sw node (avoid floating node in .op analysis)
Rsw sw 0 10meg
*Inductor - sw node to output
L1 sw out 100u
*Output Capacitor
C1 out 0 100u
*Load Resistor
R1 out 0 10

*=== Models ===
.MODEL NMOS NMOS(VTO=2 KP=10)
.MODEL D D(IS=1e-12)
.MODEL DCLAMP D(IS=1e-14)

*Transient Analysis (uic: skip .op, start from zero state)
.tran 25ms uic

*=== Measurements ===
*Before ref step (2~9.9ms): Vref=6V
.meas Vout_before AVG V(out) TRIG time=2ms TARG time=9.9ms
.meas Dctrl_before AVG V(dctrl) TRIG time=2ms TARG time=9.9ms
*After ref step (15~25ms): Vref=8V
.meas Vout_after AVG V(out) TRIG time=18ms TARG time=25ms
.meas Dctrl_after AVG V(dctrl) TRIG time=18ms TARG time=25ms
.meas Vout_min MIN V(out) TRIG time=18ms TARG time=25ms
.meas Vout_max MAX V(out) TRIG time=18ms TARG time=25ms
*IL after step
.meas IL_after AVG I(L1) TRIG time=18ms TARG time=25ms

.end
